US08293754B2
Butyl 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-acetate
A mixture of 900 mg of butyl 5-amino-4-ethoxycarbonyl-3-methyl-2-thiopheneacetate, 558 mg of (3,4-dichlorophenyl)acetonitrile and 20 mL of 4N hydrochloric acid/1,4-dioxane solution was stirred at room temperature overnight. Ice water was added to the reaction mixture, followed by neutralization with 25% aqueous ammonia, extraction with chloroform, drying over anhydrous magnesium sulfate and removal of the solvent by distillation under reduced pressure. The residue was purified on silica gel column chromatography (chloroform:methanol=50:1) to provide 500 mg (38%) of the title compound.

reactant | butyl 5-amino-4-ethoxycarbonyl-3-methyl-2-thiopheneacetate | 900 mg | NC1=C(C(=C(S1)CC(=O)OCCCC)C)C(=O)OCC | C14H21NO4S
reactant | (3,4-dichlorophenyl)acetonitrile | 558 mg | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
solvent | hydrochloric acid 1,4-dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | Butyl 2-(3,4-dichlorobenzyl)-5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-acetate | 500 mg, 38% | ClC=1C=C(CC=2NC(C3=C(N2)SC(=C3C)CC(=O)OCCCC)=O)C=CC1Cl | C20H20Cl2N2O3S
